US08809371B2
A methanol (5 ml) solution containing 6-(((cis)-2-aminocyclohexyl)amino)-2-((8-(benzyloxy)quinolin-6-yl)amino)-5-fluoronicotinamide (20 mg) was prepared and was subjected to a hydrogenation reaction (room temperature; 1 bar; flow rate: 1 ml/min; 20% Pd(OH)2/C) using H-cube™. Then, the solvent was distilled away under reduced pressure. The residue was dissolved in ethyl acetate, 4M hydrogen chloride/1,4-dioxane (50 μl) was added, the resulting precipitate was collected by filtration, and a yellow solid of 6-(((cis)-2-aminocyclohexyl)amino)-5-fluoro-2-((8-hydroxyquinolin-6-yl)amino)nicotinamide (12 mg) was thus obtained.

reactant | 6-(((cis)-2-aminocyclohexyl)amino)-2-((8-(benzyloxy)quinolin-6-yl)amino)-5-fluoronicotinamide | 20 mg | N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)N)C=C1F)NC=1C=C2C=CC=NC2=C(C1)OCC1=CC=CC=C1 | C28H29FN6O2
catalyst | Pd(OH)2/C | [OH-].[OH-].[Pd+2]
solvent | methanol | 5 ml | CO | CH4O
product | 6-(((cis)-2-aminocyclohexyl)amino)-5-fluoro-2-((8-hydroxyquinolin-6-yl)amino)nicotinamide | 12 mg | N[C@@H]1[C@@H](CCCC1)NC1=NC(=C(C(=O)N)C=C1F)NC=1C=C2C=CC=NC2=C(C1)O | C21H23FN6O2
